data/specific_train_final.csv
"C/[C:20](=[CH:21]/CO[O:10])/C(O)OO>>C[C:20]1([CH:21]CO[O:10]1)C(O)OO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"C[C:20]([CH2:21]OO)(/C=C/O)[O:10]>>C[C:20](=[O:10])/C=C/O.[CH2:21]OO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)OC(C)(C)O[O:20].[N:10]=O>>CC(C)OC(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](CO)OCC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCO[CH:21]CO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(COC(=O)C)O[O:20].[N:10]=O>>CCC(COC(=O)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCCCCC(CC)[O:20].[N+:10](=O)[O-]>>CCCCCCCCCC(CC)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(COO)(C(CO)[O:20])O.[N+:10](=O)[O-]>>CC(COO)(C(CO)[O:20][N+:10](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]C1=CC(=CC(=C1)C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1=CC(=CC(=C1)[CH2:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(C(O[O:20])(Cl)Cl)Cl.[N:10]=O>>C(C(O[O:20][N:10]=O)(Cl)Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C(=C(C([CH:10]1)O[N+](=O)[O-])C)O)C.[O:20][O]>>CC1=C(C(=C([CH:10](C1O[N+](=O)[O-])[O:20][O])C)C)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)OCO[O:20].[N+](=O)([O-])[O:10]>>CC(=O)OCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:13][C:5]([CH2:4][O:3][N+:2](=[O:1])[O-:14])([CH:6]([C:9]=[O:10])[O:7][OH:8])[O:11][OH:12]>>[CH3:13][C:5]([CH2:4][O:3][N+:2](=[O:1])[O-:14])([CH:6][O:7][OH:8])[O:11][OH:12].[C:9]=[O:10] 6,9-9; 6,9-6",Room Temperature,Initiation,homolyze
"[H:12][C:11]([O:14][O:15][H:16])[H:13]>>[H:12][C:11](=[O:14])[H:13].[H:16][O:15] 14,15-15; 14,15-14,11; 11-11,14",Room Temperature,Propagation,retroaddition
"C(C(O[N+](=O)[O-])Cl)[O:21][O:20][O].[N+](=O)[O-]>>C(C(O[N+](=O)[O-])Cl)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)CC(C)(COO[O:20][N+:21](=O)[O-])O>>CC(=O)CC(C)(COO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCOC(C(C)O)O[O:20].[N+:10](=O)[O-]>>CCCCOC(C(C)O)O[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][CH2:8][CH2:7][CH:6]([CH3:10])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:9][CH2:8][CH2:7][CH:6]([CH3:10])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"O=N[O:10][O:20]C/C(C)=C\CO>>[O:20]C/C(C)=C\CO.[O:10]N=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"C(C([O:21][O:20][O])Cl)(O)Cl.[N+](=O)[O-]>>C(C([O:21])Cl)(O)Cl.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:10][CH2:9][CH2:8][CH2:7][C:6](=[O:11])[O:5][O:4][O:3][N+:2](=[O:12])[O-:1]>>[CH3:10][CH2:9][CH2:8][CH2:7][C:6](=[O:11])[O:5][O:4][O:3].[N+:2](=[O:12])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:5][C:4](=[CH:3][C:2]([CH3:1])[CH2:7][Cl:8])[H:6]>>[H:5][C:4]([H:6])[CH:3]=[C:2]([CH3:1])[CH2:7][Cl:8] 2-2,3; 3,4-2,3; 3,4-4",Room Temperature,Propagation,resonance
"CC1(C2CCC(C1C2)(CO[O:20])O)C.[N:10]=O>>CC1(C2CCC(C1C2)(CO[O:20][N:10]=O)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][C:9]([CH3:11])([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:16])[O-:1])[O:12][N+:13](=[O:15])[O-:14]>>[CH3:10][C:9]([CH3:11])([C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3])[O:12][N+:13](=[O:15])[O-:14].[N+:2](=[O:16])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"C(C(OO[O:20][N+:21](=O)[O-])Cl)(O)Cl>>C(C(OO[O:20])Cl)(O)Cl.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)CO[O:20].[N+](=O)([O-])[O:10]>>C1=CC=C(C=C1)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(CCl)O[O:10]>>[H:20][O:10]OCCCl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]([CH2:4][OH:5])([C:6]([CH3:8])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[OH:7])[O:3]>>[H:1][C:2](=[O:3])[CH2:4][OH:5].[CH3:8][C:6]([CH2:9][O:10][N+:11](=[O:13])[O-:12])[OH:7] 3-2,3; 2,6-2,3; 2,6-6",Room Temperature,Propagation,retroaddition
"CCC12C(C=CC(C1O)(OO2)C)[O][O:10].[N:20]=[O]>>CCC12C(C=CC(C1O)(OO2)C)O[O:10][N:20]=[O] 10-10,20; 20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(OCCO)O[O:10]>>[H:20][O:10]OC(C)OCCO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(COC(=O)C)O[O:20].[N+](=O)([O-])[O:10]>>CC(COC(=O)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[O:10]OC/C=C(C)/CO.[H:20][O:21][O]>>C/C(CO)=C\CO[O:10][H:20].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCCCCO[O:10]>>[H:20][O:10]OCCCCCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
